* Z:\mnt\design.r\spice\examples\3799-1.asc
C1 N011 0 .01µ
C2 N015 0 4.7µ
C3 N020 N022 .001µ
M1 N016 N018 N019 N019 BSC42DN25NS3
R1 N019 0 .05
R2 N014 N017 200K
R3 N017 N021 40.2K
R4 N021 0 16.2K
L1 N001 N016 80µ
L2 0 N006 5µ
L3 0 N007 5µ
C4 N006 N010 4.7p
C5 N004 0 10µ
R7 N001 N009 1Meg
R8 N009 0 6.34K
D1 N006 N004 1N4148
R9 N001 N004 200K
D2 N016 N013 GSD2004W-V
D3 N001 N013 DFLZ33 N=4
D4 N007 N008 MBRS360
C6 N008 0 112µ
D5 N008 0 W5AP-LZMZ-5K8L N=6
I1 0 N004 pwl(0 0 10u 28 20u 0)
R10 N012 0 4.99K
R11 N006 N012 100K
D6 N002 N001 1N4007
D7 0 N003 1N4007
D8 0 N002 1N4007
D9 N003 N001 1N4007
V1 N002 N003 SINE(0 167 600)
C7 N001 0 .01µ
C8 N001 N005 .022µ
R12 N005 0 200
XU1 N017 N017 N021 N017 N014 N011 N020 N022 N012 N010 N004 MP_01 N015 N018 N019 N009 0 LT3799-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1.
.tran 5m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
.lib LT3799-1.sub
.backanno
.end
